US05237099
To 6.6 g of acetone, cooled in an ice bath, is added 5.0 g of tert-butylhydrazine. The mixture is stirred and then allowed to stand for several minutes. Ether and potassium hydroxide pellets are then added to the mixture. The mixture is stirred, and then the ethereal layer is separated from the mixture. Distillation of the ethereal layer yields the product acetone tert-butylhydrazone b.p. 132°-134° C.

reactant | acetone | 6.6 g | CC(=O)C | C3H6O
reactant | tert-butylhydrazine | 5.0 g | C(C)(C)(C)NN | C4H12N2
reactant | potassium hydroxide | [OH-].[K+]
solvent | Ether | CCOCC | C4H10O
product | acetone tert-butylhydrazone | C(C)(C)(C)NN=C(C)C | C7H16N2
